US08791255B2
Synthesis of N-(4-fluorophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide
0.135 ml of 4-fluoroaniline and 0.670 ml of a 2M solution of trimethylaluminium are added, dropwise, to a solution of 190 mg of ethyl [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate in 10 ml of toluene. After stirring for 30 minutes at ambient temperature, 10 ml of toluene are added. After stirring for 4 hours at ambient temperature, the reaction mixture is poured into water and a 1M solution of potassium phosphate is added. The precipitate is filtered through sintered glass and then rinsed with ethyl acetate. The filtrate is then washed with water and then with a saturated aqueous solution of sodium chloride. The organic phase is extracted and then dried over magnesium sulphate, filtered through sintered glass, and concentrated under reduced pressure. After purification of the residue by silica column chromatography, elution being carried out with a mixture of dichloromethane and methanol (95/05, V/V), 20 mg of N-(4-fluorophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | 4-fluoroaniline | 0.135 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 190 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)OCC | C13H19N3O4
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(4-fluorophenyl)-2-[1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | FC1=CC=C(C=C1)NC(CC=1N(C(C=C(N1)N1CCOCC1)=O)C)=O | C17H19FN4O3
